US04505905
A mixture of 540 mg of 4-(acetoxymethylene)-7,7-dichloro-6-oxobicyclo[3.2.0]hept-2-ene, 600 mg of zinc dust and 10 mL of acetic acid was stirred at room temperature for 15 min under argon. An additional 500 mg of zinc was then added; the mixture was stirred between 75° and 80° for 1 hr. The temperature was raised to between 85° and 90° and after addition of 1 g of zinc dust the mixture was stirred for 1 hr. The cooled reaction mixture was diluted with methylene chloride, filtered and evaporated to dryness on a rotary evaporator. The product was purified by preparative thin layer chromatography on three 20×20×0.2 cm silica gel plates, eluting with methylene chloride-hexane (2:1), to afford 246 mg (63.0%) of 4-(acetoxymethylene)-6-oxobicyclo[3.2.0]hept-2-ene (cis, trans mixture) as an oil. NMR (220 MHz; CDCl3): δ2.02 (3 H, s), 2.05 (3H, s), 2.59 (1H, t, J=3.3), 2.68 (1H, t, J=3.3), 3.25 (2H, m), 3.50 (2H, m), 4.25 (1H, m), 4.55 (1H, m), 6.11 (3H, m), 6.43 (1H, d, J=5.5), 7.0 (1H, broad s), and 7.25 (1H broad s). A small amount of this mixture was successfully separated by preparative thin layer chromatography on a 0.25 mm silica gel plate. The mass spectra of the two components were identical. HRMS: Calcd for C10H10O3, 178.0630; found, 178.0617.

reactant | 4-(acetoxymethylene)-7,7-dichloro-6-oxobicyclo[3.2.0]hept-2-ene | 540 mg | C(C)(=O)OC=C1C=CC2C(C(C12)=O)(Cl)Cl | C10H8Cl2O3
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | zinc | 600 mg | [Zn] | Zn
catalyst | zinc | 500 mg | [Zn] | Zn
catalyst | zinc | 1 g | [Zn] | Zn
product | 4-(acetoxymethylene)-6-oxobicyclo[3.2.0]hept-2-ene | 246 mg, 63.0% | C(C)(=O)OC=C1C=CC2CC(C12)=O | C10H10O3
